Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
left ankle cellulitis
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
___ y/o female with HCV p/w 2 days of left ankle pain and redness 
and also new low back/buttocks pain.  She recently attempted to 
clip an ingrown toenail on her left foot although she reports no 
toe pain or redness.  She denies fevers and chills although has 
been having daily hot flashes.  Denies trauma to the ankle.  No 
prior cellulitis or joint infections.
.
Ortho was consulted in ED in regards to question of a septic 
joint.  No joint aspiration was performed as clinically felt to 
be low chance of joint involvement.  She was given Vanco and 
Cefazolin and pain control in ER.
.
Also got Cipro for + UA.
 
Past Medical History:
HCV
Hypertension  
Hypothyroidism
h/o pneumonia at ___ yrs and ___ yrs  
MR/CHF - in the setting of pneumonia  
Preeclampsia  
Anxiety  
h/o Kidney stones  
s/p C-section  
Chronic pain secondary to bilateral foot deformities.
s/p removal of left breast cysts  
left neck cyst removal  
anemia
 
Social History:
___
Family History:
Mother with hypothyroidism. Father with hypertension and 
alcoholism. Grandfather with jaw cancer. No known family history 
of liver disease. 
 
Physical Exam:
VS:  97.2   140/100    72   20 100%RA
GEN: Well appearing, Comfortable, NAD
HEENT: NCAT, PERRL, OP clear, no thrush
NECK: Supple, no LAD
CV: RRR, III/VI SM LSB
LUNGS: CTABL
ABD: Soft, NTND, no masses, no bruits
EXT: No ___ edema, erythema and warmth present over left ankle 
and anterior leg.  Slightly decreased ROM on active and passive 
movement.  2+ ___ pulses.  Right knee without warmth or 
swelling.  No palpable LNs in popliteal fossa.
BACK: No midline tenderness.  Small, mobile, tender lymph nodes 
palpable over bilateral iliac crests.
 
Pertinent Results:
___ 08:50AM BLOOD WBC-9.6
___ 10:00PM BLOOD WBC-7.1 RBC-4.00* Hgb-12.2 Hct-35.0* 
MCV-88 MCH-30.6 MCHC-35.0 RDW-13.3 Plt ___
___ 10:00PM BLOOD Neuts-54.5 ___ Monos-4.9 Eos-3.8 
Baso-0.6
___ 08:50AM BLOOD UreaN-13 Creat-0.9
___ 10:00PM BLOOD Glucose-118* UreaN-18 Creat-0.9 Na-141 
K-4.1 Cl-107 HCO3-28 AnGap-10
___ 10:00PM BLOOD CRP-14.5*
___ 10:10PM BLOOD Lactate-1.5
___ 12:50AM URINE Color-Yellow Appear-Clear Sp ___
___ 12:50AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-SM
___ 12:50AM URINE RBC-0 ___ Bacteri-NONE Yeast-NONE 
___
Blood and urine culture neg (urine culture was done after 
antibiotics)
 
Brief Hospital Course:
Left ankle celluliis improved with vancomycin and pt was 
discharged on keflex. Oxycodone controlled pain well. 
Cipro was continued for UTI. 
Patient is known to have intraabdominal lymphadenopathy in past 
and has noted low back lymph nodes. She was advised to follow up 
with PCP regarding further follow up. 
Also she was concered of a breast mass and was advised to 
discuss with PCP ___. mammogram/US. 
 
Medications on Admission:
Clonazepam 1mg BID at 7PM and bedtime
Clonazepam 2 mg BID prn
Diltiazem 240mg daily
HCTZ 25mg daily
Synthroid ___ microgram daily x 6 days and then 100 microgram on 
___ day
Olmesartan 40 mg daily
Darvon 65mg PRN
Prilosec OTC
Propanolol 40 mg TID
 
Discharge Medications:
1. Clonazepam 1 mg Tablet Sig: Two (2) Tablet PO twice a day as 
needed for anxiety: Do not take with alcohol, do not drive or 
use machinery while on this medicaton. Can make you drowsy. .  
2. Clonazepam 1 mg Tablet Sig: One (1) Tablet PO DAILY AT 7PM 
(): Do not take with alcohol, do not drive or use machinery 
while on this medicaton. Can make you drowsy. .  
3. Clonazepam 1 mg Tablet Sig: One (1) Tablet PO QHS (once a day 
(at bedtime)) as needed: Do not take with alcohol, do not drive 
or use machinery while on this medicaton. Can make you drowsy. . 
 
4. Diltiazem HCl 120 mg Capsule, Sustained Release Sig: Two (2) 
Capsule, Sustained Release PO DAILY (Daily).  
5. Hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
6. Levothyroxine 100 mcg Tablet Sig: Two (2) Tablet PO 6X/WEEK 
(___).  
7. Levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO 1X/WEEK 
(___).  
8. Olmesartan 20 mg Tablet Sig: Two (2) Tablet PO Daily () as 
needed for HTN.  
9. Propranolol 40 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day).  
10. Prilosec OTC 20 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO once a day.  
11. Oxycodone 5 mg Tablet Sig: ___ Tablets PO every eight (8) 
hours as needed for pain: Do not take with alcohol, do not drive 
or use machinery while on this medicaton. Can make you drowsy. .
Disp:*10 Tablet(s)* Refills:*0*
12. Cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours) for 7 days.
Disp:*28 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left leg/ankle cellulitis
Urinary tract infection, bacterial likely
Lymphadenopathy
Concern for breast mass
History of hypertension and anxiety
Tobacco user

 
Discharge Condition:
stable 

 
Discharge Instructions:
Return to the hospital if you have new fevers, chills, worsening 
ankle swelling or pain or any new symptoms of concern to you. 

Take the antibiotocs as prescribed for cellulitis. 

Keep your appointments. 

Discuss your concern about breast mass and also enlarged lymph 
nodes with your primary care doctor - Dr ___ you se him 
this week. You will need further work up for it. Dr ___ 
arrange for it in clinic. 

Do not take oxycodone and drive or use machinery or cook. 

 
Followup Instructions:
___